US08859732B2
4-Methoxy-2-(3′,4′,5′-tris(octadecyloxy)cyclohexylmethyloxy)benzaldehyde (73.56 g, 69.8 mmol) was dissolved in THF-methanol (1100 ml+55 ml), and sodium borohydride (3.17 g, 83.8 mmol) was added at 0° C. After stirring the mixture at room temperature for 1.5 hr, 0.2N hydrochloric acid (150 ml) was added at 0° C. to quench the reaction. The solvent was evaporated to about half, and the residue was dissolved in chloroform (1400 ml), washed twice with 0.1N hydrochloric acid (700 ml), and twice with pure water (700 ml). The solvent was evaporated, and the residue was precipitated with methanol (800 ml), and washed with acetonitrile (800 ml) to give 4-methoxy-2-(3′,4′,5′-tris(octadecyloxy)cyclohexylmethyloxy)benzyl alcohol (71.5 g, 67.7 mmol, 92% vs methyl 3,4,5-tris(octadecyloxy)cyclohexylcarboxylate).

reactant | 4-Methoxy-2-(3′,4′,5′-tris(octadecyloxy)cyclohexylmethyloxy)benzaldehyde | 69.8 mmol, 73.56 g | COC1=CC(=C(C=O)C=C1)OCC1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C69H128O6
reactant | sodium borohydride | 83.8 mmol, 3.17 g | [BH4-].[Na+]
reactant | hydrochloric acid | 0.2N, 150 ml | Cl | ClH
solvent | THF methanol | 1100 ml | C1CCOC1.CO
product | 4-methoxy-2-(3′,4′,5′-tris(octadecyloxy)cyclohexylmethyloxy)benzyl alcohol | 67.7 mmol, 71.5 g, 92% | COC1=CC(=C(CO)C=C1)OCC1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C69H130O6
